US04111936
Methyl 3-(2-hydroxy-5-methoxybenzoyl)propionate was reacted with epibromohydrin in a similar manner to that described in Example 1 (ii) to give methyl 3-[2-(2,3-epoxypropoxy)-5-methoxybenzoyl]propionate which, recrystallised from ether-petroleum ether (b.p. 60°-80°), had m.p. 50° - 51.5° C). (Found: C, 60.91; H, 6.07; C15H18O6 requires: C, 61.21; H, 6.17%).

reactant | Methyl 3-(2-hydroxy-5-methoxybenzoyl)propionate | OC1=C(C(=O)CCC(=O)OC)C=C(C=C1)OC | C12H14O5
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
product | methyl 3-[2-(2,3-epoxypropoxy)-5-methoxybenzoyl]propionate | O1C(COC2=C(C(=O)CCC(=O)OC)C=C(C=C2)OC)C1 | C15H18O6
